US08058263B2
38.1. (S)-2-amino-4-bromo-butyric acid methyl ester
A solution of (5)-(+)-2-amino-4-bromobutyric acid hydrobromide salt (5 g) in a solution of 3M HCl in MeOH (57 mL) was refluxed for 20 h. The reaction mixture was evaporated off to afford after HV drying the desired compound as a brown oil (3.97 g).

reactant | (5)-(+)-2-amino-4-bromobutyric acid hydrobromide salt | 5 g | Br.N[C@H](C(=O)O)CCBr
reactant | HCl | 3M | Cl | ClH
reactant | MeOH | 57 mL | CO | CH4O
product | (S)-2-amino-4-bromo-butyric acid methyl ester | COC([C@H](CCBr)N)=O | C5H10BrNO2
